US06294309B1
Bicyclo[2.2.1]heptan-3-ene-2-carboxylic acid tert-butyl ester (1.94 g) is dissolved in CH2Cl2 (20 mL). m-Chloroperoxybenzoic acid (2.7 g, 70%) was added and the mixture was stirred 24 hrs. When bicyclo[2.2.1]heptan-3-ene-2-carboxylic acid tert-butyl ester disappeared, Na2CO3(sat.) (20 mL) was added then stirred for an additional 2 hrs. The reaction mixture was extracted with ethyl acetate (20 mL×3). The combined organic layers were washed till the pH=7 then evaporated to dryness to obtain the 3-oxa-bicyclo[2.2.1]heptan-2-carboxylic acid tert-butyl ester.

reactant | Bicyclo[2.2.1]heptan-3-ene-2-carboxylic acid tert-butyl ester | 1.94 g | C(C)(C)(C)OC(=O)C1C2CCC(=C1)C2 | C12H18O2
reactant | m-Chloroperoxybenzoic acid | 2.7 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-oxa-bicyclo[2.2.1]heptan-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1C2CCC(O1)C2 | C11H18O3
